US08729263B2
Bis(pinacolato)diboron (3.13 g, 12.33 mmol), KOAc (3.63 g, 37.0 mmol), and PdCl2(dppf).CH2Cl2 adduct (0.504 g, 0.617 mmol) were added to a 250 mL flask containing 7-(benzyloxy)-6-bromonaphthalen-2-ol (2.03 g, 6.17 mmol). DMSO (30.8 mL) was then added, and a reflux condenser attached. The reaction mixture was evacuated then filled with N2 (2×), then heated at 100° C. overnight. The reaction mixture was cooled to room temperature, filtered through celite (pre-packed filter funnel) using EtOAc, and concentrated in vacuo to a crude oil. Flash chromatography, eluting with 5-30% EtOAc/heptane, afforded the product, 7-(benzyloxy)-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)naphthalen-2-ol, (58% yield) as a colorless oil. LCMS Rt=1.72 min (condition C), MS (M+1)=377.6. 1H NMR (400 MHz, METHANOL-d4) δppm 8.07 (s, 1H), 7.68 (t, J=8.91 Hz, 3H), 7.36-7.43 (m, 2H), 7.28-7.34 (m, 1H), 7.09 (s, 1H), 7.02 (d, J=2.51 Hz, 1H), 6.92 (dd, J=8.78, 2.51 Hz, 1H), 5.21 (s, 2H), 1.40 (s, 12H).

reactant | Bis(pinacolato)diboron | 12.33 mmol, 3.13 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | KOAc | 37.0 mmol, 3.63 g | CC(=O)[O-].[K+]
reactant | CH2Cl2 | 0.617 mmol, 0.504 g | C(Cl)Cl | CH2Cl2
reactant | 7-(benzyloxy)-6-bromonaphthalen-2-ol | 6.17 mmol, 2.03 g | C(C1=CC=CC=C1)OC1=C(C=C2C=CC(=CC2=C1)O)Br | C17H13BrO2
catalyst | PdCl2(dppf) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | DMSO | 30.8 mL | CS(=O)C | C2H6OS
product | 7-(benzyloxy)-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)naphthalen-2-ol | 58% yield | C(C1=CC=CC=C1)OC1=C(C=C2C=CC(=CC2=C1)O)B1OC(C(O1)(C)C)(C)C | C23H25BO4
